US05157041
A solution of 181 mg of 1-[3(S)-[[N-(3-benzyloxy-2-naphthoyl)-L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-2(S)-piperidinecarboxamide in 5 ml of ethanol was hydrogenated over 10% palladium-on-carbon at 20° C. and under atmospheric pressure for 16 hours. The catalyst was removed by filtration and the filtrate was evaporated. After trituration with diethyl ether there were obtained 110 mg of N-tert.butyl-1-[3(S)-[[N-(3-hydroxy-2-naphthoyl)-L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-2(S)-piperidinecarboxamide as a pale yellow solid; MS: m/e 632 [M+H]+.

reactant | 1-[3(S)-[[N-(3-benzyloxy-2-naphthoyl)-L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-2(S)-piperidinecarboxamide | 181 mg | C(C1=CC=CC=C1)OC=1C(=CC2=CC=CC=C2C1)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@H]([C@@H](CN1[C@@H](CCCC1)C(=O)NC(C)(C)C)O)CC1=CC=CC=C1 | C42H51N5O6
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | [Pd] | Pd
product | N-tert.butyl-1-[3(S)-[[N-(3-hydroxy-2-naphthoyl)-L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-2(S)-piperidinecarboxamide | 110 mg | C(C)(C)(C)NC(=O)[C@H]1N(CCCC1)C[C@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)C1=CC2=CC=CC=C2C=C1O)CC(N)=O)=O)O | C35H45N5O6
